2103-03-04 08:26:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic hypercarbic respiratory failure
   HPI: 62 year-old woman with AF, TIA, DM (hypoglycemic coma) recent
   intra-cranial hemorrhage admitted about 2 weeks ago with mental status
   changes felt due to hypercarbia.  Felt due to OSA/OHS, and underwent
   sleep study with preliminary settings of 20/8.  After discharge not
   given BIPAP, then somnulent in the morning.  Sent to [**Hospital 5867**] Hospital
   with pCO2 and did well with BiPAP.  Transferred to [**Hospital1 5**], but in
   transent did not continue with BIPAP.  On arrival pH 7.25/152/70.
   Overnight apneic due to alkalosis.  Maintained on AC (apneic on PS).
   24 Hour Events:
 INVASIVE VENTILATION - START [**2103-3-3**] 08:15 PM
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-3-4**] 12:47 AM
   Other medications: RISS, Xalatan, glipizide, rosiglitazone, acebutalol,
   Keppra, simvastatin, PPI, fluticasone, Peridex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-4**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.2
C (100.7
   HR: 73 (62 - 79) bpm
   BP: 160/51(79) {128/41(62) - 160/105(114)} mmHg
   RR: 22 (10 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134 kg
             Total In:
                                                                  3,035 mL
                                                                     80 mL
   PO:
             TF:
   IVF:
                                                                     35 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    340 mL
   Urine:
   340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,835 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 400) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 30%
   RSBI: 101
   PIP: 28 cmH2O
   Plateau: 30 cmH2O
   Compliance: 14 cmH2O/mL
   SpO2: 92%
   ABG: 7.37/85.[**Numeric Identifier 299**]/59/44/18
   Ve: 6.5 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Obese, intubated.  Responds somewhat to voice and sternal rub but not
   following commands.
   RRR, S1s2 ?right sided S3.  No murmur.
   Lungs clear anteriorly
   Decreased bowels sounds
   1+ edema.  Left leg with erythema, marked boundaries.  Both sides warm.
   Labs / Radiology
   8.3 g/dL
   196 K/uL
   140 mg/dL
   0.5 mg/dL
   44 mEq/L
   3.5 mEq/L
   13 mg/dL
   101 mEq/L
   148 mEq/L
   26.1 %
   6.5 K/uL
        [image002.jpg] Last ABG: 7.37/85/59
                             [**2103-3-3**]  09:01 PM
                             [**2103-3-3**]  11:48 PM
                             [**2103-3-4**]  05:22 AM
   WBC
   6.5
   Hct
   26.1
   Plt
   196
   Cr
   0.5
   TCO2
   49
   51
   Glucose
   140
   Other labs: PT / PTT / INR:14.1/24.9/1.2, Differential-Neuts:78.9 %,
   Lymph:13.9 %, Mono:5.8 %, Eos:1.4 %, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]): Acute on chronic
   hypercarbic respiratory failure, now on PS.  Check ABG on the
   settings.  Diuresis with lasix and acetazolamide with goal diuresis -2
   L/day.  Hold narcotics/sedatives.  Will not use progesterone,
   acetazolamide until she definitively fails BiPAP.  If extubate, will
   extubate to BIPAP.
 DIABETES MELLITUS (DM), TYPE II: consider d/c
ing oral hypoglycemics.
   Hypertension: Follow with diuresis, continue beta-blockade.
   Left leg erythema: Potential infection vs. DVT.  Follow-up ultrasound.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-3-3**] 08:34 PM, a second PIV
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 30 minutes

2103-03-05 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2103-3-4**] 11:16 AM
   Extubated in the morning
   Concern for possible aspiration after extubation, kept NPO during the
   day
   Changed medications to IV and d/c'd oral diabetes medications while NPO
   -ordered for speech and swallow for tuesday
   -Left lower extremity ultrasound -> no DVT, erythema of left leg
   improved with elevation
   -Echocardiogram was not done
   -given lasix 20mg IV with little urine output -> given lasix 40mg IV x2
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2103-3-4**] 09:40 PM
   Heparin Sodium (Prophylaxis) - [**2103-3-5**] 12:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-5**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 61 (54 - 125) bpm
   BP: 157/43(69) {127/39(61) - 180/115(122)} mmHg
   RR: 23 (6 - 32) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134 kg
             Total In:
                                                                  2,090 mL
                                                                    650 mL
   PO:
             TF:
   IVF:
                                                                  2,090 mL
                                                                    650 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    495 mL
   Urine:
                                                                  1,180 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    910 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 204 (204 - 304) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 91%
   ABG: 7.27/114/62/42/19
   Ve: 5.2 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   8.3 g/dL
   172 mg/dL
   0.6 mg/dL
   42 mEq/L
   5.2 mEq/L
   14 mg/dL
   95 mEq/L
   142 mEq/L
   27.6 %
   8.2 K/uL
        [image002.jpg]
                             [**2103-3-3**]  09:01 PM
                             [**2103-3-3**]  11:48 PM
                             [**2103-3-4**]  05:22 AM
                             [**2103-3-4**]  04:20 PM
                             [**2103-3-5**]  03:27 AM
                             [**2103-3-5**]  03:31 AM
                             [**2103-3-5**]  05:18 AM
   WBC
   6.5
   8.2
   Hct
   26.1
   27.6
   Plt
   196
   201
   Cr
   0.5
   0.6
   0.6
   TCO2
   49
   51
   53
   55
   Glucose
   140
   158
   172
   Other labs: PT / PTT / INR:14.1/24.9/1.2, Differential-Neuts:78.9 %,
   Lymph:13.9 %, Mono:5.8 %, Eos:1.4 %, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Fluid analysis / Other labs: 7.27/114/62/55
   Imaging: [**3-4**] RLE Duplex: No evidence of left lower extremity DVT.
   [**3-4**] CXR:
   ET tube tip is 4.8 cm above the carina. The tip is abutting the right
   tracheal wall. Increased opacity in the left base is due to increasing
   atelectasis. There is mild engorgement of the pulmonary vasculature
   with no
   over CHF.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with subarachnoid
   hemorrhage [**Date range (1) 5700**] readmitted with acute change in mental status [**12-18**]
   acute on chronic hypercarbic respiratory failure
   .
   # Hypercarbic respiratory failure with new right lung collapse- On CXR
   this morning she had white out of the right lung with rightward
   tracheal deviation concerning for new right lung collapse, most likely
   [**12-18**] mucous plugging given her thick secretions.  ABG with acute on
   chronic respiratory acidosis, likely [**12-18**] poor ventilation in the
   setting of acute right lung collapse.
   -[**Last Name (un) 1446**]-tracheal suctioning
   -repeat CXR post NT suctioning
   -BIPAP as tolerated
   -likely will require intubation and bronchoscopy for deep suctioning
   - check TTE
   - continue diuresis with lasix as tolerated
   - continue flovent, albuterol, atrovent
   .
   #Concern for aspiration
 post extubation she had couging and
   desaturation with one sip of water very concerning for aspiration which
   would be [**Last Name **] problem for her.  Possibly [**12-18**] intubation.
   -speech and swallow in the am
   -keep NPO for now
   .
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix for one month at least, f/u with
   neurosurgery
   - Per neurology -> cont keppra for now
   -outpatient neurology follow up
   .
   #Paroxysmal Atrial fibrillation: in sinus rhythm on admission, does
   have limited bursts of afib
   -coumadin being held given recent hemorrhage
   -metoprolol IV prn for tachycardia/htn
   -not on asa [**12-18**] left temporal hemorrhage
   .
   #Type II DM
   -glargine/hiss
   -holding oral agents while npo
   .
   # HTN
 continues to be quite hypertensive
   -lasix as tolerated
   -holding acebutolol, enalapril while npo
   -consider hydralazine if hypertensives
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2103-3-3**] 08:34 PM
   20 Gauge - [**2103-3-4**] 08:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Protonix
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-03-06 07:46:00 Physician Resident Progress Note
Chief Complaint: - ABG 7/16/141/114.  Pt was somnolent during the day
   -> BiPAP restarted-> ABG returned to baseline
   Repeat ABG 7/26/61/105
   - Held NGT -> due for S+S [**3-6**]
   - Gave zydis 5mg for agitation to initiate BiPAP
   - Persistently elevated BP >180, cont'd metoprolol, given trial of
   nitropaste, hydral 10mg x1, 20mg x2 -> little improvement -> started
   nitro gtt was difficult to obtain manually.
   - pt in discomfort, EKG w/o ischemic changes, cardiac enzymes obtained
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2103-3-5**] 11:00 PM
 NON-INVASIVE VENTILATION - STOP [**2103-3-6**] 01:00 AM
 NON-INVASIVE VENTILATION - START [**2103-3-6**] 01:20 AM
 NON-INVASIVE VENTILATION - STOP [**2103-3-6**] 04:30 AM
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 2.5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2103-3-5**] 11:15 PM
   Heparin Sodium (Prophylaxis) - [**2103-3-6**] 12:00 AM
   Metoprolol - [**2103-3-6**] 04:00 AM
   Hydralazine - [**2103-3-6**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-6**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 91 (58 - 118) bpm
   BP: 175/50(79) {136/45(66) - 215/62(94)} mmHg
   RR: 29 (20 - 35) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134 kg
             Total In:
                                                                  1,968 mL
                                                                    206 mL
   PO:
             TF:
   IVF:
                                                                  1,968 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                  1,153 mL
   Urine:
                                                                  1,730 mL
                                                                  1,153 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    238 mL
                                                                   -947 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 272 (260 - 361) mL
   PC : 10 cmH2O
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.26/61/105/43/0
   Ve: 6 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self, place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   172 K/uL
   8.6 g/dL
   124 mg/dL
   0.5 mg/dL
   43 mEq/L
   3.6 mEq/L
   12 mg/dL
   98 mEq/L
   148 mEq/L
   28.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2103-3-3**]  11:48 PM
                             [**2103-3-4**]  05:22 AM
                             [**2103-3-4**]  04:20 PM
                             [**2103-3-5**]  03:27 AM
                             [**2103-3-5**]  03:31 AM
                             [**2103-3-5**]  05:18 AM
                             [**2103-3-5**]  07:47 AM
                             [**2103-3-5**]  01:30 PM
                             [**2103-3-5**]  04:51 PM
                             [**2103-3-6**]  03:56 AM
   WBC
   6.5
   8.2
   6.0
   Hct
   26.1
   27.6
   28.8
   Plt
   196
   201
   172
   Cr
   0.5
   0.6
   0.6
   0.5
   TCO2
   51
   53
   55
   53
   53
   29
   Glucose
   140
   158
   172
   189
   124
   Other labs: PT / PTT / INR:14.1/24.9/1.2, Differential-Neuts:78.9 %,
   Lymph:13.9 %, Mono:5.8 %, Eos:1.4 %, Lactic Acid:0.6 mmol/L, Ca++:8.6
   mg/dL, Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with subarachnoid
   hemorrhage [**Date range (1) 5700**] readmitted with acute change in mental status [**12-18**]
   acute on chronic hypercarbic respiratory failure
   .
   # Hypercarbic respiratory failure with new right lung collapse - On CXR
   previously she had white out of the right lung with rightward tracheal
   deviation concerning for new right lung collapse, most likely [**12-18**]
   mucous plugging given her thick secretions.  ABG with acute on chronic
   respiratory acidosis, likely [**12-18**] poor ventilation in the setting of
   acute right lung collapse.
   - A-line today given need for frequent ABGs and accurate BP
   measurements
   - BIPAP as needed
   - continue [**Last Name (un) 1446**]-tracheal suctioning as needed
   - check TTE today
   - continue diuresis with lasix as tolerated
   - continue flovent, albuterol, atrovent
   .
   # Altered mental status
 h/o SAH/IPH, but now unclear etiology as no
   clear complaints.
   - check STAT Head CT to r/o worsening ICH
   - CTA Chest to r/o PE
   - cont r/o MI given concern for cardiac etiology
   - f/u TTE today
   - check UA/urine culture
   - recheck serum Na in PM to trend given hypernatremia
   .
   #Concern for aspiration
 post extubation she had couging and
   desaturation with one sip of water very concerning for aspiration which
   would be [**Last Name **] problem for her.  Possibly [**12-18**] intubation.
   -speech and swallow eval today
   -keep NPO for now
   .
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix for one month at least, f/u with
   neurosurgery
   - per neurology -> cont keppra for now
   - outpatient neurology follow up
   .
   #Paroxysmal Atrial fibrillation: in sinus rhythm on admission, does
   have limited bursts of afib
   - coumadin being held given recent hemorrhage
   - metoprolol IV prn for tachycardia/htn
   - not on asa [**12-18**] left temporal hemorrhage
   .
   #Type II DM
   -glargine/hiss
   -holding oral agents while npo
   .
   # HTN
 continues to be quite hypertensive
   -lasix as tolerated
   -holding acebutolol, enalapril while npo
   -consider hydralazine if hypertensives
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-3-3**] 08:34 PM
   20 Gauge - [**2103-3-4**] 08:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-03-06 09:13:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2103-3-5**] 11:00 PM
 NON-INVASIVE VENTILATION - STOP [**2103-3-6**] 01:00 AM
 NON-INVASIVE VENTILATION - START [**2103-3-6**] 01:20 AM
 NON-INVASIVE VENTILATION - STOP [**2103-3-6**] 04:30 AM
   - Hydralazine & nitro drip for HTN
   - chest discomfort - EKG and r/o
   History obtained from Medical records
   Patient unable to provide history: confused
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1.8 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2103-3-5**] 11:15 PM
   Heparin Sodium (Prophylaxis) - [**2103-3-6**] 12:00 AM
   Metoprolol - [**2103-3-6**] 04:00 AM
   Hydralazine - [**2103-3-6**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-6**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.8
C (96.5
   HR: 93 (65 - 118) bpm
   BP: 158/43(70) {136/43(66) - 215/62(94)} mmHg
   RR: 28 (20 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134 kg
             Total In:
                                                                  1,968 mL
                                                                    264 mL
   PO:
             TF:
   IVF:
                                                                  1,968 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                  1,153 mL
   Urine:
                                                                  1,730 mL
                                                                  1,153 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    238 mL
                                                                   -889 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 272 (272 - 361) mL
   PC : 10 cmH2O
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 16 cmH2O
   SpO2: 91%
   ABG: 7.26/61/105/43/0
   Ve: 6 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self, place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.6 g/dL
   172 K/uL
   124 mg/dL
   0.5 mg/dL
   43 mEq/L
   3.6 mEq/L
   12 mg/dL
   98 mEq/L
   148 mEq/L
   28.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2103-3-3**]  11:48 PM
                             [**2103-3-4**]  05:22 AM
                             [**2103-3-4**]  04:20 PM
                             [**2103-3-5**]  03:27 AM
                             [**2103-3-5**]  03:31 AM
                             [**2103-3-5**]  05:18 AM
                             [**2103-3-5**]  07:47 AM
                             [**2103-3-5**]  01:30 PM
                             [**2103-3-5**]  04:51 PM
                             [**2103-3-6**]  03:56 AM
   WBC
   6.5
   8.2
   6.0
   Hct
   26.1
   27.6
   28.8
   Plt
   196
   201
   172
   Cr
   0.5
   0.6
   0.6
   0.5
   TCO2
   51
   53
   55
   53
   53
   29
   Glucose
   140
   158
   172
   189
   124
   Other labs: PT / PTT / INR:14.1/24.9/1.2, CK / CKMB / Troponin-T:18//,
   Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8 %, Eos:1.4 %, Lactic
   Acid:0.6 mmol/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPERTENSION
     -more hypertensive than usual
     -currently on ntg gtt, hydralazine
     -anxiety/pain vs. cardiac event
     -CTA r/o PE
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE ON CHRONIC
   -Acute on chronic hypercarbic respiratory failure
   -Decomp at rehab after didn
t put on bipap overnight
   -Assess for extubation.
   -Diuresis with lasix and acetazolamide
   -Hold narcotics/sedatives.
 DIABETES MELLITUS (DM), TYPE II: consider d/c
ing oral hypoglycemics.
Left leg erythema:
   -Potential infection vs. DVT.
   -Follow-up ultrasound.
   Chest pain
   -EKG without changes
   -r/o MI
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-3-3**] 08:34 PM
   20 Gauge - [**2103-3-4**] 08:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2103-03-07 10:39:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2103-3-6**] 11:00 AM
 NON-INVASIVE VENTILATION - START [**2103-3-6**] 11:00 AM
 ARTERIAL LINE - START [**2103-3-6**] 11:32 AM
 BRONCHOSCOPY - At [**2103-3-6**] 01:00 PM
 NON-INVASIVE VENTILATION - STOP [**2103-3-6**] 02:10 PM
 OR SENT - At [**2103-3-6**] 04:35 PM
 BRONCHOSCOPY - At [**2103-3-6**] 04:37 PM
 INVASIVE VENTILATION - START [**2103-3-6**] 06:00 PM
 OR RECEIVED - At [**2103-3-6**] 06:27 PM
   s/p rigid bronch in OR with visualized 5cm tear in trachea; pt was
   intubated under fiberoptics
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-6**] 09:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-7**] 04:21 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2103-3-7**] 04:21 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-7**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-7**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 65 (57 - 94) bpm
   BP: 141/44(64) {139/44(64) - 199/57(88)} mmHg
   RR: 19 (10 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,034 mL
                                                                    774 mL
   PO:
             TF:
   IVF:
                                                                  2,034 mL
                                                                    774 mL
   Blood products:
   Total out:
                                                                  1,983 mL
                                                                    645 mL
   Urine:
                                                                  1,983 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     51 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (300 - 350) mL
   Vt (Spontaneous): 306 (306 - 306) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.48/61/54/42/18
   Ve: 6 L/min
   PaO2 / FiO2: 108
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   164 K/uL
   179 mg/dL
   0.4 mg/dL
   42 mEq/L
   3.1 mEq/L
   16 mg/dL
   99 mEq/L
   147 mEq/L
   22.8 %
   6.7 K/uL
        [image002.jpg]
                             [**2103-3-6**]  03:06 PM
                             [**2103-3-6**]  06:22 PM
                             [**2103-3-6**]  07:46 PM
                             [**2103-3-6**]  08:47 PM
                             [**2103-3-6**]  10:32 PM
                             [**2103-3-7**]  01:13 AM
                             [**2103-3-7**]  04:33 AM
                             [**2103-3-7**]  05:02 AM
                             [**2103-3-7**]  07:27 AM
                             [**2103-3-7**]  09:27 AM
   WBC
   6.7
   Hct
   23.3
   22.8
   Plt
   164
   Cr
   0.4
   TropT
   <0.01
   <0.01
   TCO2
   47
   50
   46
   50
   48
   47
   Glucose
   179
   Other labs: PT / PTT / INR:14.1/24.9/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Lactic Acid:1.6 mmol/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.5 mg/dL
   Assessment and Plan
 HYPERTENSION
     -BP better controlled today
     -on home dose enalapril
Tracheal tear
   -presumably related to prior intubation
   -IP following
   -cont intubation with distal positioning of tube and intentional air
   leak to allow healing.
   -Rest period above several weeks raising question of whether trache
   more optimal approach
   -careful maint of ETT position
   -empiric abx coverage inc anti-fungal coverage
 RESPIRATORY FAILURE, ACUTE ON CHRONIC
   -Acute on chronic hypercarbic respiratory failure
   -Resp alkalosis - breathing at set rate.  Need to decrease set rate as
   overventilating presently.
 DIABETES MELLITUS (DM), TYPE II: consider d/c
ing oral hypoglycemics.
Left leg erythema:
   -Potential infection vs. DVT.
   -Follow-up ultrasound.
    Chest pain
   -EKG without changes
   -r/o MI
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-3-3**] 08:34 PM
   20 Gauge - [**2103-3-6**] 09:05 AM
   Arterial Line - [**2103-3-6**] 11:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2103-03-08 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2103-3-7**] 10:00 AM
 PICC LINE - START [**2103-3-7**] 02:00 PM
   - Hct stable and hemolysis labs negative
   - IP recs for trach tomorrow morning. Basically, because pt requires
   bipap and has OSA and frequent intubations risk of tracheal perf would
   be great in her, so it is safer to electively trach at this point. Per
   Dr. [**Last Name (STitle) 901**], trach would be in for at least 8 weeks
   - Pt has a mass on OSH chest CT in L hilum at location of bleed. This
   will need to be assessed with contrast CT after trach placed
   - Family meeting with Dr. [**Last Name (STitle) 911**] and Dr. [**Last Name (STitle) 901**]. Family's questions
   answered successfully and completely
   - Family requesting MICU team to call PCP [**Last Name (NamePattern4) **]. [**First Name4 (NamePattern1) 5931**] [**Last Name (NamePattern1) 5932**]
   [**Telephone/Fax (1) 5933**]
   - Family requesting to speak with Case Manager.
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-7**] 08:36 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-8**] 04:18 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-3-7**] 08:30 AM
   Metoprolol - [**2103-3-7**] 10:30 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-8**] 12:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-8**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 56 (52 - 75) bpm
   BP: 141/44(64) {0/0(0) - 0/0(0)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  1,994 mL
                                                                    504 mL
   PO:
             TF:
   IVF:
                                                                  1,994 mL
                                                                    504 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                    265 mL
   Urine:
                                                                  1,255 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    739 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/61/77.[**Numeric Identifier 253**]/39/16
   Ve: 4.9 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous, dull at bases ), no
   sub cutaneous emphysema
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: sedated
   Labs / Radiology
   147 K/uL
   7.5 g/dL
   88 mg/dL
   0.4 mg/dL
   39 mEq/L
   3.0 mEq/L
   13 mg/dL
   103 mEq/L
   148 mEq/L
   23.2 %
   3.9 K/uL
        [image002.jpg]
                             [**2103-3-7**]  01:13 AM
                             [**2103-3-7**]  04:33 AM
                             [**2103-3-7**]  05:02 AM
                             [**2103-3-7**]  07:27 AM
                             [**2103-3-7**]  09:27 AM
                             [**2103-3-7**]  11:29 AM
                             [**2103-3-7**]  02:57 PM
                             [**2103-3-7**]  05:41 PM
                             [**2103-3-8**]  04:10 AM
                             [**2103-3-8**]  04:22 AM
   WBC
   6.7
   3.9
   Hct
   23.3
   22.8
   25.3
   23.2
   Plt
   164
   147
   Cr
   0.4
   0.4
   0.4
   TCO2
   50
   48
   47
   48
   45
   45
   Glucose
   179
   131
   88
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:1.6 mmol/L, LDH:203
   IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with subarachnoid
   hemorrhage [**Date range (1) 5700**] readmitted with acute change in mental status [**12-18**]
   acute on chronic hypercarbic respiratory failure; now intubated after
   finding of traumatic tracheal tear.
   .
   # HCT drop:  HCT now stable no melena. Hemolysis labs negative.  Repeat
   CXR clearing w/o evidence of worsening effusions and given stable HCT,
   concern for intrathoracic bleeding is now low.
   - monitor HCT
   - guaic stools.
   # Tracheal tear - Found on CTA chest done [**3-6**], flexible brochoscopy
   showed webbing, rigid bronch showed traumatic tear; now s/p fiberoptic
   intubation. Will be trach
ed today with plan for 8 weeks with
   tracheostomy to allow tracheal tear to heal.
   - tracheostomy today
   - prophylactic antibiotics while intubated: Unasyn and Fluconazole
   .
   # Hypercarbic respiratory failure with new right lung collapse - On CXR
   previously she had white out of the right lung with rightward tracheal
   deviation concerning for new right lung collapse, most likely [**12-18**]
   mucous plugging given her thick secretions.  ABG now with hypoxia in
   the setting of turning pt and right mainstem intubation (now s/p
   pulling back ET tube) and with metabolic alkalosis [**12-18**] overventilation.
   - serial ABGs via A-line
   - continue diuresis with lasix as tolerated
   - continue flovent, albuterol, atrovent
   # Altered mental status
 h/o SAH/IPH, but now unclear etiology as no
   clear complaints. Head CT unchanged, Chest CTA w/o PE, no evidence of
   MI, TTE w/ nl EF, UA unremarkable. Now intubated [**12-18**] tracheal tear.
   .
   #Concern for aspiration
 post extubation she had couging and
   desaturation with one sip of water very concerning for aspiration which
   would be [**Last Name **] problem for her.  Possibly [**12-18**] intubation. Now intubated
   again [**12-18**] tracheal tear.
   - on Unasyn as for tracheal tear
   .
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix for one month at least, f/u with
   neurosurgery
   - per neurology -> cont keppra for now
   - outpatient neurology follow up
   .
   #Paroxysmal Atrial fibrillation: HR currently in 60
s w/p any nodal
   agents. In sinus rhythm on admission, does have limited bursts of afib
   - coumadin being held given recent hemorrhage
   - metoprolol IV prn for tachycardia/htn
   - not on asa [**12-18**] left temporal hemorrhage
   .
   #Type II DM
   -glargine/hiss
   -holding oral agents while npo
   .
   # HTN
  BP variable , had been hypertensive two days ago requiring
   nitro drip at which point she was transitioned back to her home dose of
   enalapril.  However, she then had low BP and high pulse pressure
   yesterday early morning in the setting of propofol, but then normalized
   throughout the day with BP
s 130
s-160
s/40-60
s. Enalapril was held
   this am.
   -  restart  enalapril
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2103-3-6**] 09:05 AM
   Arterial Line - [**2103-3-6**] 11:32 AM
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2103-03-08 10:27:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, tracheal tear
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2103-3-7**] 10:00 AM
 PICC LINE - START [**2103-3-7**] 02:00 PM
   - family meeting last evening (see event note)
   - stable o/n
   - going for trache today
   History obtained from Medical records
   Patient unable to provide history: Sedated, ett
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-7**] 08:36 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-8**] 04:18 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2103-3-7**] 10:30 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-8**] 12:33 AM
   Pantoprazole (Protonix) - [**2103-3-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-8**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 49 (49 - 75) bpm
   BP: 141/44(64) {0/0(0) - 0/0(0)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  1,994 mL
                                                                  1,137 mL
   PO:
             TF:
   IVF:
                                                                  1,994 mL
                                                                  1,077 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                    358 mL
   Urine:
                                                                  1,255 mL
                                                                    358 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    739 mL
                                                                    779 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 14 cmH2O
   Compliance: 87.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.46/61/77.[**Numeric Identifier 253**]/39/16
   Ve: 4 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: ), cuff leak
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   147 K/uL
   88 mg/dL
   0.4 mg/dL
   39 mEq/L
   3.0 mEq/L
   13 mg/dL
   103 mEq/L
   148 mEq/L
   23.2 %
   3.9 K/uL
        [image002.jpg]
                             [**2103-3-7**]  01:13 AM
                             [**2103-3-7**]  04:33 AM
                             [**2103-3-7**]  05:02 AM
                             [**2103-3-7**]  07:27 AM
                             [**2103-3-7**]  09:27 AM
                             [**2103-3-7**]  11:29 AM
                             [**2103-3-7**]  02:57 PM
                             [**2103-3-7**]  05:41 PM
                             [**2103-3-8**]  04:10 AM
                             [**2103-3-8**]  04:22 AM
   WBC
   6.7
   3.9
   Hct
   23.3
   22.8
   25.3
   23.2
   Plt
   164
   147
   Cr
   0.4
   0.4
   0.4
   TCO2
   50
   48
   47
   48
   45
   45
   Glucose
   179
   131
   88
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:1.6 mmol/L, LDH:203
   IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
Tracheal tear
   -presumably related to intubation at start of prior admission
   -IP following
   -cont intubation with distal positioning of tube and intentional air
   leak to allow healing
   -careful maint of ETT position
   -empiric abx coverage inc anti-fungal coverage
   -for trache

 RESPIRATORY FAILURE, ACUTE ON CHRONIC
   -Acute on chronic hypercarbic respiratory failure
   -Resp alkalosis
 HYPERTENSION
     -BP better controlled today
     -on home dose enalapril
 DIABETES MELLITUS (DM), TYPE II: consider d/c
ing oral hypoglycemics.
Left leg erythema:
   -Potential infection vs. DVT.
   Mental status
   -following commands
   -will be able to wean sedation once trached so will be better able to
   assess
   -head CT negative
    Chest pain
   -EKG without changes
   -r/o MI
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2103-3-6**] 09:05 AM
   Arterial Line - [**2103-3-6**] 11:32 AM
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes

2103-03-09 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IP put in trach in OR
   - Hypertensive post-op -- no pain, no nausea, increased bowel regimen
   -- did not have NGT placed, so did not get enalapril, instead
   double-dosed IV metoprolol overnight
   - weaning off vent: currently on Pressure Support
   - left message for PCP, [**Name10 (NameIs) 124**] call back tomorrow
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsMotrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-8**] 10:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-9**] 04:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-3-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-9**] 12:00 AM
   Fentanyl - [**2103-3-9**] 04:20 AM
   Other medications:
   Flowsheet Data as of  [**2103-3-9**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 65 (49 - 79) bpm
   BP: 141/44(64) {0/0(0) - 0/0(0)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,557 mL
                                                                    176 mL
   PO:
             TF:
   IVF:
                                                                  2,497 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    755 mL
   Urine:
                                                                  1,435 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,122 mL
                                                                   -579 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 319 (298 - 319) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   Compliance: 87.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.48/52/73.[**Numeric Identifier 252**]/35/12
   Ve: 4.3 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous, dull at bases ), no
   sub cutaneous emphysema
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: sedated
   Labs / Radiology
   151 K/uL
   8.2 g/dL
   106 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.5 mEq/L
   8 mg/dL
   105 mEq/L
   147 mEq/L
   25.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2103-3-7**]  05:02 AM
                             [**2103-3-7**]  07:27 AM
                             [**2103-3-7**]  09:27 AM
                             [**2103-3-7**]  11:29 AM
                             [**2103-3-7**]  02:57 PM
                             [**2103-3-7**]  05:41 PM
                             [**2103-3-8**]  04:10 AM
                             [**2103-3-8**]  04:22 AM
                             [**2103-3-8**]  05:06 PM
                             [**2103-3-9**]  04:10 AM
   WBC
   3.9
   6.4
   Hct
   22.8
   25.3
   23.2
   25
   25.9
   Plt
   147
   151
   Cr
   0.4
   0.4
   0.4
   TCO2
   48
   47
   48
   45
   45
   40
   Glucose
   131
   88
   100
   106
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, LDH:203
   IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 ANEMIA, OTHER
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with subarachnoid
   hemorrhage [**Date range (1) 5700**] readmitted with acute change in mental status [**12-18**]
   acute on chronic hypercarbic respiratory failure; now intubated after
   finding of traumatic tracheal tear.
   # Tracheal tear - Found on CTA chest done [**3-6**], flexible brochoscopy
   showed webbing, rigid bronch showed traumatic tear; now s/p fiberoptic
   intubation. Will be trach
ed today with plan for 8 weeks with
   tracheostomy to allow tracheal tear to heal. Now s/p tracheostomy.
   - try SBT today, if does well try Passey-Muir valve
   - prophylactic antibiotics while intubated: Unasyn and Fluconazole
   - place NGT for feeding / medications
   # Hypercarbic respiratory failure with new right lung collapse - On CXR
   previously she had white out of the right lung with rightward tracheal
   deviation concerning for new right lung collapse, most likely [**12-18**]
   mucous plugging given her thick secretions.  ABG now with hypoxia in
   the setting of turning pt and right mainstem intubation (now s/p
   pulling back ET tube) and with metabolic alkalosis [**12-18**] overventilation.
   - serial ABGs via A-line
   - continue diuresis with lasix as tolerated
   - continue flovent, albuterol, atrovent
   # Rising temperature: ? impending infection. Increasing temperature,
   low-grade leukocytosis. Post-op from trachea.
   - Pan Cx, check stool for C.diff
   - consider LENIs to r/o DVT
   - continue current antibiotics, touch base w/ IP re: definite course
   # HCT drop:  HCT now stable no melena. Hemolysis labs negative.  Repeat
   CXR clearing w/o evidence of worsening effusions and given stable HCT,
   concern for intrathoracic bleeding is now low.
   - monitor HCT
   - guaiac stools
   # Altered mental status
 h/o SAH/IPH, but now unclear etiology as no
   clear complaints. Head CT unchanged, Chest CTA w/o PE, no evidence of
   MI, TTE w/ nl EF, UA unremarkable. Now intubated [**12-18**] tracheal tear.
   #Concern for aspiration
 post extubation she had couging and
   desaturation with one sip of water very concerning for aspiration which
   would be [**Last Name **] problem for her.  Possibly [**12-18**] intubation. Now intubated
   again [**12-18**] tracheal tear.
   - on Unasyn as for tracheal tear
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix for one month at least, f/u with
   neurosurgery
   - per neurology -> cont keppra for now
   - outpatient neurology follow up
   #Paroxysmal Atrial fibrillation: HR currently in 60
s w/p any nodal
   agents. In sinus rhythm on admission, does have limited bursts of afib
   - coumadin being held given recent hemorrhage
   - metoprolol IV prn for tachycardia/htn
   - not on asa [**12-18**] left temporal hemorrhage
   #Type II DM
   -glargine/hiss
   -holding oral agents while npo
   # HTN
  BP variable , had been hypertensive two days ago requiring
   nitro drip at which point she was transitioned back to her home dose of
   enalapril.  However, she then had low BP and high pulse pressure
   yesterday early morning in the setting of propofol, but then normalized
   throughout the day with BP
s 130
s-160
s/40-60
   -  continue enalapril, BB
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-3-6**] 11:32 AM
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT:  heparin sc
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-03-09 11:45:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, tracheal tear
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 SENT to OR for trache
 Much more alert & interactive this morning
   History obtained from Medical records
   Patient unable to provide history: Sedated, trached
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-8**] 10:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-9**] 10:47 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2103-3-9**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-9**] 07:44 AM
   Pantoprazole (Protonix) - [**2103-3-9**] 07:45 AM
   Metoprolol - [**2103-3-9**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-9**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.5
   HR: 62 (54 - 79) bpm
   BP: 141/44(64) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,557 mL
                                                                    473 mL
   PO:
             TF:
   IVF:
                                                                  2,497 mL
                                                                    473 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    985 mL
   Urine:
                                                                  1,435 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,122 mL
                                                                   -513 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 302 (298 - 319) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.42/56/116/35/10
   Ve: 6.9 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trache
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   151 K/uL
   106 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.5 mEq/L
   8 mg/dL
   105 mEq/L
   147 mEq/L
   25.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2103-3-7**]  07:27 AM
                             [**2103-3-7**]  09:27 AM
                             [**2103-3-7**]  11:29 AM
                             [**2103-3-7**]  02:57 PM
                             [**2103-3-7**]  05:41 PM
                             [**2103-3-8**]  04:10 AM
                             [**2103-3-8**]  04:22 AM
                             [**2103-3-8**]  05:06 PM
                             [**2103-3-9**]  04:10 AM
                             [**2103-3-9**]  10:33 AM
   WBC
   3.9
   6.4
   Hct
   22.8
   25.3
   23.2
   25
   25.9
   Plt
   147
   151
   Cr
   0.4
   0.4
   0.4
   TCO2
   47
   48
   45
   45
   40
   38
   Glucose
   131
   88
   100
   106
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, LDH:203
   IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
Tracheal tear
   -presumably occurred during intubation at start of prior admission
   -IP following
   -trache placed yesterday to bypass injured area
   -empiric abx coverage inc anti-fungal coverage

 RESPIRATORY FAILURE, ACUTE ON CHRONIC
   -Acute on chronic hypercarbic respiratory failure - likely OSA, ?OHS,
   ?element central
   -Resp alkalosis
   -wean vent
 HYPERTENSION
     -BP better controlled today
     -on home dose enalapril
 DIABETES MELLITUS (DM), TYPE II:
   -SSRI
Left leg erythema:
   -stable vs. border marking
Low grade temp
   -new
   -is post trache placement which could be explanation
   -already on fluc and unasyn for trache/upper trach tear proph
 HYPERTENSION, BENIGN
Mental status
   -very alert & interactive this morning
   -wean sedation as tol
    Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-3-6**] 11:32 AM
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2103-03-10 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2103-3-9**] 12:00 PM
   [**3-9**]
   - still somewhat hypertensive 160-180's
   - refused NGT
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsMotrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-9**] 08:08 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-10**] 04:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-3-9**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-10**] 12:37 AM
   Fentanyl - [**2103-3-10**] 12:44 AM
   Metoprolol - [**2103-3-10**] 06:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-10**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.3
C (99.2
   HR: 60 (53 - 65) bpm
   BP: 151/63(84) {148/41(72) - 169/63(84)} mmHg
   RR: 16 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  1,000 mL
                                                                    176 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    128 mL
   Urine:
                                                                    770 mL
                                                                    128 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                     48 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 328 (302 - 328) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 128
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/57/87.[**Numeric Identifier 7**]/34/8
   Ve: 5.5 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   154 K/uL
   7.5 g/dL
   86 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.6 mEq/L
   7 mg/dL
   109 mEq/L
   150 mEq/L
   23.8 %
   3.6 K/uL
        [image002.jpg]
                             [**2103-3-7**]  11:29 AM
                             [**2103-3-7**]  02:57 PM
                             [**2103-3-7**]  05:41 PM
                             [**2103-3-8**]  04:10 AM
                             [**2103-3-8**]  04:22 AM
                             [**2103-3-8**]  05:06 PM
                             [**2103-3-9**]  04:10 AM
                             [**2103-3-9**]  10:33 AM
                             [**2103-3-10**]  04:18 AM
                             [**2103-3-10**]  04:29 AM
   WBC
   3.9
   6.4
   3.6
   Hct
   25.3
   23.2
   25
   25.9
   23.8
   Plt
   147
   151
   154
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   48
   45
   45
   40
   38
   37
   Glucose
   131
   88
   100
   106
   86
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, LDH:203
   IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Microbiology: C. Diff neg X 1
   Blood Cx: NGTD in all cxs
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 ANEMIA, OTHER
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with subarachnoid
   hemorrhage [**Date range (1) 5700**] readmitted with acute change in mental status [**12-18**]
   acute on chronic hypercarbic respiratory failure; found to have
   traumatic tracheal tear now s/p trach.
   # Tracheal tear - Found on CTA chest done [**3-6**], flexible brochoscopy
   showed webbing, rigid bronch showed traumatic tear; now s/p fiberoptic
   intubation. Will be trach
ed today with plan for 8 weeks with
   tracheostomy to allow tracheal tear to heal. Now s/p tracheostomy.
   - consider SBT today, if does well try Passey-Muir valve
   - continue Unasyn and Fluconazole for ppx for tracheal tear
   - continue to d/w patient regarding placing NGT for feeding /
   medications
   # Hypercarbic respiratory failure: Patient remains on vent. Her resp
   issues are likely a combination of OSA, CO2 retention andf her hospital
   course has also been complicated by right lung collapse, R mainstem
   intubation.
   - serial ABGs via A-line as needed
   - continue diuresis with lasix as tolerated
   - continue flovent, albuterol, atrovent
   # Rising temperature: ? impending infection. Increasing temperature,
   low-grade leukocytosis. Post-op from trachea.
   - Pan Cx, check stool for C.diff
   - consider LENIs to r/o DVT
   - continue current antibiotics, touch base w/ IP re: definite course
   # Hypernatremia:
   - D5W at 75 cc/hr
   - if NGT placement, wiould do free water flushes
   - consider changing abx solution to D5W
   # HCT drop:  HCT now stable no melena. Hemolysis labs negative.  Repeat
   CXR clearing w/o evidence of worsening effusions and given stable HCT,
   concern for intrathoracic bleeding is now low.
   - monitor HCT
   - guaiac stools
   # Altered mental status
 Currently improved. h/o SAH/IPH, but now
   unclear etiology as no clear complaints. Head CT unchanged, Chest CTA
   w/o PE, no evidence of MI, TTE w/ nl EF, UA unremarkable.
   # Concern for aspiration
 post extubation she had couging and
   desaturation with one sip of water very concerning for aspiration which
   would be [**Last Name **] problem for her.
   - on Unasyn as for tracheal tear
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix for one month at least, f/u with
   neurosurgery
   - per neurology -> cont keppra for now
   - outpatient neurology follow up
   #Paroxysmal Atrial fibrillation: HR currently in 60
s w/p any nodal
   agents. In sinus rhythm on admission, does have limited bursts of afib
   - coumadin being held given recent hemorrhage
   - metoprolol IV prn for tachycardia/htn
   - not on asa [**12-18**] left temporal hemorrhage
   #Type II DM
   -glargine/hiss
   -holding oral agents while npo
   # HTN
  BP variable , had been hypertensive two days ago requiring
   nitro drip at which point she was transitioned back to her home dose of
   enalapril.  However, she then had low BP and high pulse pressure
   yesterday early morning in the setting of propofol, but then normalized
   throughout the day with BP
s 130
s-160
s/40-60
   -  continue enalapril, BB
   ICU Care
   Nutrition: d/w pt regarding NGT placement
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-3-6**] 11:32 AM
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-03-10 10:53:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, tracheal tear
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Febrile to 101.3 refused NG tube.  Few secretions
 FEVER - 101.3
F - [**2103-3-9**] 12:00 PM
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-9**] 08:08 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-10**] 10:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2103-3-10**] 06:02 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-10**] 08:00 AM
   Pantoprazole (Protonix) - [**2103-3-10**] 08:00 AM
   Fentanyl - [**2103-3-10**] 08:00 AM
   Other medications:
   mag/kcl
   zopharan
   metoprol 10 q 6 hr
   senna
   docusate
   fent bolus not given
   unasyn
   fluconazole
   miconazole
   keppra
   RISS
   tylenol
   simvisatin
   PPI iv
   Albuterol
   chlorhex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-10**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.6
   HR: 56 (51 - 63) bpm
   BP: 151/63(84) {148/41(72) - 169/63(84)} mmHg
   RR: 13 (11 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  1,000 mL
                                                                    568 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                    568 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    199 mL
   Urine:
                                                                    770 mL
                                                                    199 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 328 (328 - 328) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 128
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/57/87.[**Numeric Identifier 7**]/34/8
   Ve: 7 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trache
   Cardiovascular: RRR s1s2 no m/r/g
   Respiratory / Chest: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  no rash or erythema
   Neurologic: Attentive, A+O x 3 no gross motor sensory deficits.
   Lines: Clean dry intact.
   Labs / Radiology
   7.5 g/dL
   154 K/uL
   86 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.6 mEq/L
   7 mg/dL
   109 mEq/L
   150 mEq/L
   23.8 %
   3.6 K/uL
        [image002.jpg]
                             [**2103-3-7**]  11:29 AM
                             [**2103-3-7**]  02:57 PM
                             [**2103-3-7**]  05:41 PM
                             [**2103-3-8**]  04:10 AM
                             [**2103-3-8**]  04:22 AM
                             [**2103-3-8**]  05:06 PM
                             [**2103-3-9**]  04:10 AM
                             [**2103-3-9**]  10:33 AM
                             [**2103-3-10**]  04:18 AM
                             [**2103-3-10**]  04:29 AM
   WBC
   3.9
   6.4
   3.6
   Hct
   25.3
   23.2
   25
   25.9
   23.8
   Plt
   147
   151
   154
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   48
   45
   45
   40
   38
   37
   Glucose
   131
   88
   100
   106
   86
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, LDH:203
   IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
Tracheal tear
   -presumably occurred during intubation at start of prior admission
   -IP following
   -trach placed yesterday to bypass injured area
   -empiric abx coverage inc anti-fungal coverage 10 days of coverage

 RESPIRATORY FAILURE, ACUTE ON CHRONIC
   -Acute on chronic hypercarbic respiratory failure - likely OSA, ?OHS,
   ?element central
   -Resp alkalosis
   -wean vent
   -Suspect central cause will check gas pre and post CPAP
 HYPERTENSION
     -BP better controlled today
     -Will start enalapril when NG in place
 DIABETES MELLITUS (DM), TYPE II:
   -SSRI
Left leg erythema:
   -No change chronic per husband
[**Name2 (NI) 5978**] culture
   -new
   -is post trach placement which could be explanation
   -already on fluc and unasyn for trach/upper trachea tear proph
   -Will pull A-line today
Mental status
   -very alert & interactive this morning
   -wean sedation as tol
    Remainder of plan per resident note.
   ICU Care
   Nutrition: Will start tube feeds.  Will replace free water when NG in
   place.
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-3-6**] 11:32 AM  Will d
c today
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT:  Heprin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  40 minutes

2103-03-11 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ABG 7.38/55/111 -> PS trial -> 7.32/64/83, so Pt felt to have central
   apnea and retaining CO2
   - Dobhoff placed and started TF/free water boluses
   - checked VBG (7.36/67/48/39)  and ABG (7.40/59/133/38)
   - SBP persistently elevated as high as 190, gave 10 IV hydral with good
   result
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-10**] 08:23 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-11**] 04:29 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-3-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-11**] 12:03 AM
   Fentanyl - [**2103-3-11**] 12:04 AM
   Metoprolol - [**2103-3-11**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-11**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 53 (40 - 66) bpm
   BP: 180/57(86) {124/33(57) - 180/116(120)} mmHg
   RR: 16 (13 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,624 mL
                                                                    654 mL
   PO:
             TF:
                                                                    114 mL
                                                                    275 mL
   IVF:
                                                                  2,290 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                    420 mL
                                                                     75 mL
   Urine:
                                                                    420 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,204 mL
                                                                    579 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 182 (182 - 182) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.40/59/133/32/9
   Ve: 5.5 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous, dull at bases ), no
   sub cutaneous emphysema
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: sedated
   Labs / Radiology
   181 K/uL
   7.7 g/dL
   122 mg/dL
   0.3 mg/dL
   32 mEq/L
   3.6 mEq/L
   6 mg/dL
   107 mEq/L
   145 mEq/L
   24.5 %
   4.3 K/uL
        [image002.jpg]
                             [**2103-3-9**]  04:10 AM
                             [**2103-3-9**]  10:33 AM
                             [**2103-3-10**]  04:18 AM
                             [**2103-3-10**]  04:29 AM
                             [**2103-3-10**]  11:49 AM
                             [**2103-3-10**]  12:49 PM
                             [**2103-3-10**]  03:04 PM
                             [**2103-3-10**]  08:42 PM
                             [**2103-3-11**]  02:47 AM
                             [**2103-3-11**]  03:06 AM
   WBC
   6.4
   3.6
   3.8
   4.3
   Hct
   25.9
   23.8
   24.1
   24.5
   Plt
   151
   154
   161
   181
   Cr
   0.4
   0.4
   0.4
   0.3
   TCO2
   38
   37
   34
   34
   37
   38
   Glucose
   106
   86
   144
   122
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, LDH:203
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 ANEMIA, OTHER
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with subarachnoid
   hemorrhage [**Date range (1) 5700**] readmitted with acute change in mental status [**12-18**]
   acute on chronic hypercarbic respiratory failure; found to have
   traumatic tracheal tear now s/p trach.
   # Tracheal tear - Found on CTA chest done [**3-6**], flexible brochoscopy
   showed webbing, rigid bronch showed traumatic tear; now s/p fiberoptic
   intubation. Will be trach
ed today with plan for 8 weeks with
   tracheostomy to allow tracheal tear to heal. Now s/p tracheostomy.
   - consider SBT today, if does well try Passey-Muir valve
   - continue Unasyn and Fluconazole for ppx for tracheal tear
   - continue to d/w patient regarding placing NGT for feeding /
   medications
   # Hypercarbic respiratory failure: Patient remains on vent. Her resp
   issues are likely a combination of OSA, CO2 retention andf her hospital
   course has also been complicated by right lung collapse, R mainstem
   intubation.
   - serial ABGs via A-line as needed, consider d/c A-line and use VBGs as
   needed
   - continue diuresis with lasix as tolerated
   - continue flovent, albuterol, atrovent
   # Rising temperature: ? impending infection. Increasing temperature,
   low-grade leukocytosis. Post-op from trachea.
   - Pan Cx, check stool for C.diff
   - consider LENIs to r/o DVT
   - continue current antibiotics, touch base w/ IP re: definite course
   # Hypernatremia:
   - D5W at 75 cc/hr
   - if NGT placement, would do free water flushes
   - consider changing abx solution to D5W
   # HCT drop:  HCT now stable no melena. Hemolysis labs negative.  Repeat
   CXR clearing w/o evidence of worsening effusions and given stable HCT,
   concern for intrathoracic bleeding is now low.
   - monitor HCT
   - guaiac stools
   # Altered mental status
 Currently improved. h/o SAH/IPH, but now
   unclear etiology as no clear complaints. Head CT unchanged, Chest CTA
   w/o PE, no evidence of MI, TTE w/ nl EF, UA unremarkable.
   # Concern for aspiration
 post extubation she had couging and
   desaturation with one sip of water very concerning for aspiration which
   would be [**Last Name **] problem for her.
   - on Unasyn as for tracheal tear
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix for one month at least, f/u with
   neurosurgery
   - per neurology -> cont keppra for now
   - outpatient neurology follow up
   #Paroxysmal Atrial fibrillation: HR currently in 60
s w/p any nodal
   agents. In sinus rhythm on admission, does have limited bursts of afib
   - coumadin being held given recent hemorrhage
   - metoprolol IV prn for tachycardia/htn
   - not on asa [**12-18**] left temporal hemorrhage
   #Type II DM
   -glargine/hiss
   -holding oral agents while npo
   # HTN
  BP variable , had been hypertensive two days ago requiring
   nitro drip at which point she was transitioned back to her home dose of
   enalapril.  However, she then had low BP and high pulse pressure
   yesterday early morning in the setting of propofol, but then normalized
   throughout the day with BP
s 130
s-160
s/40-60
   -  continue enalapril, BB
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2103-3-10**] 04:00 PM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2103-3-6**] 11:32 AM
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-03-11 11:24:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, tracheal tear
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   CMV 7.38/55/11  PST 7.32/64/83  central component to apnea.
   VBG correlated A59  V 67  .04 change in pH.
   Doboff placed
   IV hydralazine for HTN with effect
 FEVER - 101.3
F - [**2103-3-9**] 12:00 PM
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-10**] 08:23 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-11**] 10:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2103-3-11**] 12:04 AM
   Metoprolol - [**2103-3-11**] 04:29 AM
   Pantoprazole (Protonix) - [**2103-3-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-11**] 08:00 AM
   Other medications:
   mag/kcl
   zopharan
   metoprol 10 q 6 hr (D
   senna
   docusate
   unasyn
   fluconazole
   miconazole
   keppra
   RISS
   tylenol
   simvisatin
   PPI iv
   Albuterol
   chlorhex
   Enalapril 20mg qday
   Hydralizine 10mg iv Q6hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:unremarkable
   Flowsheet Data as of  [**2103-3-11**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 68 (40 - 82) bpm
   BP: 133/32(56) {124/31(56) - 180/116(120)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,624 mL
                                                                  1,233 mL
   PO:
             TF:
                                                                    114 mL
                                                                    449 mL
   IVF:
                                                                  2,290 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                    420 mL
                                                                    148 mL
   Urine:
                                                                    420 mL
                                                                    148 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,204 mL
                                                                  1,085 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 182 (182 - 182) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 36 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.40/59/133/32/9
   Ve: 5.1 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trache
   Cardiovascular: RRR s1s2 no m/r/g
   Respiratory / Chest: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  no rash or erythema
   Neurologic: Attentive, A+O x 3 no gross motor sensory deficits.
   Lines: Clean dry intact.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology:  Chest port [**3-11**]- No focal infiltrates ? RML
   atelectasis, sharp angles, PICC line not in place
   7.7 g/dL
   181 K/uL
   122 mg/dL
   0.3 mg/dL
   32 mEq/L
   3.6 mEq/L
   6 mg/dL
   107 mEq/L
   145 mEq/L
   24.5 %
   4.3 K/uL
        [image002.jpg]
                             [**2103-3-9**]  04:10 AM
                             [**2103-3-9**]  10:33 AM
                             [**2103-3-10**]  04:18 AM
                             [**2103-3-10**]  04:29 AM
                             [**2103-3-10**]  11:49 AM
                             [**2103-3-10**]  12:49 PM
                             [**2103-3-10**]  03:04 PM
                             [**2103-3-10**]  08:42 PM
                             [**2103-3-11**]  02:47 AM
                             [**2103-3-11**]  03:06 AM
   WBC
   6.4
   3.6
   3.8
   4.3
   Hct
   25.9
   23.8
   24.1
   24.5
   Plt
   151
   154
   161
   181
   Cr
   0.4
   0.4
   0.4
   0.3
   TCO2
   38
   37
   34
   34
   37
   38
   Glucose
   106
   86
   144
   122
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, LDH:203
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Micro-Stool neg Cdiff, Urine neg, and blood neg from 24^th
   Assessment and Plan
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with
   subarachnoid/intraparenchymal hemorrhage [**Date range (1) 5700**] and readmitted to
   MICU with acute change in mental status  [**Date range (1) 5858**] being readmitted
   with acute hypercarbic respiratory failure.
Tracheal tear
   -presumably occurred during intubation at start of prior admission
   -IP following
   -trach placed yesterday to bypass injured area
   -empiric abx coverage inc anti-fungal coverage 10 days of coverage

 RESPIRATORY FAILURE, ACUTE ON CHRONIC
   -Acute on chronic hypercarbic respiratory failure - likely OSA, ?OHS,
   ?element central
   -Resp alkalosis
   -wean vent
   -Confirmed with gas pre and post CPAP
 HYPERTENSION
     -BP better controlled today
     -Will start enalapril when NG in place
     -PRN hydralazine
    -Will start lasix with goal negative fluid balance 500cc-1L negative
   Will also help with BP.
 DIABETES MELLITUS (DM), TYPE II:
   -SSRI
Left leg erythema:
   -No change chronic per husband
[**Name2 (NI) 5978**] culture-Resolved
   -new
   -is post trach placement which could be explanation
   -already on fluc and unasyn for trach/upper trachea tear proph
Mental status
   -very alert & interactive this morning intermittently confused
   -Consider Haldol will follow closely.
   -review medications consider hold fentanyl
   -wean sedation as tolerated
   -Did have Head CT for MS changes on Tuesday of last week.
    Remainder of plan per resident note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2103-3-10**] 04:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2103-3-7**] 02:00 PM-Pull back 1cm.
   Prophylaxis:
   DVT:   SQ hep
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition : Screen on Monday for LTAC placement
   Patient is critically ill. Total time spent: 32 minutes

2103-03-12 07:35:00 Physician Resident Progress Note
Chief Complaint: hypercarbic resp failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2103-3-11**] 08:00 AM
 URINE CULTURE - At [**2103-3-11**] 03:00 PM
 EKG - At [**2103-3-11**] 08:25 PM
   - increased enalapril dose, held metoprolol
   - given lasix 40mg iv with good effect on urine output and fluid
   balance, repeated in PM, another dose this AM
   - started pyridium for bladder spasm
   - given fioricet x1 for migraine symptoms
   - attempted PSV, lasted ~3hrs but ABG 7.38/60/38 --> returned to AC
   - went into afib/rvr at [**2093**], ecg unchanged, given lopressor 10mg iv x1
   followed by 25mg po with good effect, back to nsr
   Patient unable to provide history: Encephalopathy
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-11**] 08:27 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-12**] 03:54 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-3-11**] 08:00 AM
   Hydralazine - [**2103-3-11**] 06:00 PM
   Metoprolol - [**2103-3-11**] 08:40 PM
   Heparin Sodium (Prophylaxis) - [**2103-3-12**] 12:42 AM
   Furosemide (Lasix) - [**2103-3-12**] 05:00 AM
   Haloperidol (Haldol) - [**2103-3-12**] 06:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-12**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 72 (61 - 124) bpm
   BP: 131/112(117) {123/31(56) - 183/112(117)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,669 mL
                                                                    443 mL
   PO:
             TF:
                                                                    779 mL
                                                                    107 mL
   IVF:
                                                                  1,050 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  3,178 mL
                                                                    735 mL
   Urine:
                                                                  3,178 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -509 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 372 (230 - 372) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.38/60/38/37/7
   Ve: 6 L/min
   PaO2 / FiO2: 38
   Physical Examination
   GEN: very somnolent (just received haldol), but opens eyes to command
   HEENT: clear secretions in back of mouth
   PULM: clear ant and laterally
   Heart: distant heart sounds, RRR, no murmurs
   ABD: obese, soft, NT
   EXT: 2+ edema
   Labs / Radiology
   235 K/uL
   7.9 g/dL
   169 mg/dL
   0.4 mg/dL
   37 mEq/L
   3.5 mEq/L
   7 mg/dL
   105 mEq/L
   147 mEq/L
   24.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2103-3-10**]  04:29 AM
                             [**2103-3-10**]  11:49 AM
                             [**2103-3-10**]  12:49 PM
                             [**2103-3-10**]  03:04 PM
                             [**2103-3-10**]  08:42 PM
                             [**2103-3-11**]  02:47 AM
                             [**2103-3-11**]  03:06 AM
                             [**2103-3-11**]  07:22 PM
                             [**2103-3-11**]  09:05 PM
                             [**2103-3-12**]  03:45 AM
   WBC
   3.8
   4.3
   6.1
   Hct
   24.1
   24.5
   23
   24.9
   Plt
   161
   181
   235
   Cr
   0.4
   0.3
   0.4
   0.4
   TCO2
   37
   34
   34
   37
   38
   37
   Glucose
   144
   122
   152
   169
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, LDH:203
   IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR: poor inspiratory effort, but compared to prior CXR,
   slightly more edema, no effusions, no infiltrate
   Microbiology: [**3-9**]: Stool, urine, blood: NGTD
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 ANEMIA, OTHER
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with subarachnoid
   hemorrhage [**Date range (1) 5700**] readmitted with acute change in mental status [**12-18**]
   acute on chronic hypercarbic respiratory failure; found to have
   traumatic tracheal tear now s/p trach.
   # Tracheal tear - Found on CTA chest done [**3-6**], flexible brochoscopy
   showed webbing, rigid bronch showed traumatic tear; now s/p fiberoptic
   intubation. Will be trach
ed today with plan for 8 weeks with
   tracheostomy to allow tracheal tear to heal. Now s/p tracheostomy.
   - continue to try PS trials, although continues to become hypercarbic
   likely [**12-18**] central apnea
   - if does well try Passey-Muir valve
   - continue Unasyn ([**3-8**]) and Fluconazole ([**3-8**]) for ppx for tracheal
   tear for goal 10 day course
   # Respiratory failure: .  Patient remains on vent and has failed SBT.
   Currently appears to be component of hypercarbic resp failure likely
   from cental apnea as well as mild pulm edema. In addition, pt has had
   hypoxia as well. Hypoxia may be [**12-18**] atelecatsis or vol overload; PE in
   differential but hypoxia does improve with PEEP which would not be
   consistent with PE. Her resp issues are likely a combination of OSA,
   CO2 retention andf her hospital course has also been complicated by
   right lung collapse, R mainstem intubation.
   -  repeat ABG
   - goal I/O 1L neg today
   - continue flovent, albuterol, atrovent
   - U/S diaphragm to assess for paralyzed right diaphragm given
   persistant elevated rt diaphragm on CXR
   - obtain BNP
   - obtain LENI
   #Paroxysmal Atrial fibrillation: HR currently in 60
s, but had an
   episode of afib with RVR last night.
   - BB restarted
   - coumadin being held given recent hemorrhage
   - not on asa [**12-18**] left temporal hemorrhage
   # HTN
  BP variable , had been hypertensive two days ago requiring
   nitro drip at which point she was transitioned back to her home dose of
   enalapril.  However, she then had low BP and high pulse pressure
   yesterday early morning in the setting of propofol, but then normalized
   throughout the day with BP
s 130
s-160
s/40-60
   -  continue enalapril, and hydralazine
   # Altered mental status
 Has been improved, but still frequently
   confused. h/o SAH/IPH, but now unclear etiology as no clear complaints.
    Likely [**12-18**] hemorrage, prior hypoglycemic coma from which she did not
   recover and ICU delirium. Head CT unchanged, Chest CTA w/o PE, no
   evidence of MI, TTE w/ nl EF, UA unremarkable.
   - did receive haldol this AM for agitation
   - [**Month (only) 453**] haldol
   - if more confused with [**Month (only) 453**] fentanyl
   # Hypernatremia:  sodium cont to be 147
   - continue free water flushes 250 cc Q4H
   # Fevers: no further fevers, cultures have been negative, c.diff neg on
   unasyn and fluconazole ppx for  traceal tear
   # Concern for aspiration
 post extubation she had couging and
   desaturation with one sip of water very concerning for aspiration which
   would be [**Last Name **] problem for her.
   - on Unasyn as for tracheal tear
   #Type II DM
   -glargine/hiss
   -holding oral agents while npo
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix for one month at least, f/u with
   neurosurgery
   - per neurology -> cont keppra for now
   - outpatient neurology follow up
   -# HCT drop:  HCT now stable no melena. Hemolysis labs negative.
   Repeat CXR clearing w/o evidence of worsening effusions and given
   stable HCT, concern for intrathoracic bleeding is now low.
   - monitor HCT
   - guaiac stools
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-03-12 10:05:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, tracheal tear
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   24 Hour Events:
   Increased enalapril, lopressor held for bradycardia, received lasix 40
   x3 started on pyridium.  Lasted 3 hours on SBT.  7.38/60/38 returned to
   CMV
   Afib with RVR lopressor 10 IV and 25mg po returned to sinus.
   Hypoxic on SBT returned to CMV
 ARTERIAL LINE - STOP [**2103-3-11**] 08:00 AM
 URINE CULTURE - At [**2103-3-11**] 03:00 PM
 EKG - At [**2103-3-11**] 08:25 PM
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-11**] 08:27 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-12**] 09:52 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2103-3-11**] 06:00 PM
   Metoprolol - [**2103-3-11**] 08:40 PM
   Furosemide (Lasix) - [**2103-3-12**] 05:00 AM
   Haloperidol (Haldol) - [**2103-3-12**] 06:39 AM
   Pantoprazole (Protonix) - [**2103-3-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-12**] 08:00 AM
   Other medications:
   mag/kcl
   zopharan
   senna
   docusate
   unasyn
   fluconazole
   miconazole
   keppra
   RISS
   tylenol
   simvisatin
   PPI iv
   Albuterol
   chlorhex
   Enalapril 20mg qday
   Hydralizine 10mg iv Q6hr
   pyridium
   lopressor 25 [**Hospital1 **]
   fentyl 100mcg last 12 hours
   Changes to medical and family history:
   Pelase see H+P no changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-12**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 62 (60 - 124) bpm
   BP: 112/40(58) {101/33(50) - 183/112(117)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  2,669 mL
                                                                  1,640 mL
   PO:
             TF:
                                                                    779 mL
                                                                    669 mL
   IVF:
                                                                  1,050 mL
                                                                    782 mL
   Blood products:
   Total out:
                                                                  3,178 mL
                                                                  1,045 mL
   Urine:
                                                                  3,178 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -509 mL
                                                                    595 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 372 (230 - 372) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 80%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.38/60/38/37/7
   Ve: 6.5 L/min
   PaO2 / FiO2: 48
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: RRR s1s2 no m/r/g
   Respiratory / Chest: Course BS ant/post no bronchial BS noted
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  no rash or erythema
   Ext: No edema noted
   Neurologic: Attentive, A+O x 3 no gross motor sensory deficits.
   Lines: Clean dry intact.
   Skin:  Not assessed
   Labs / Radiology: Elevated persistent right HD, Plump vasculature no
   overt infiltrates.
   7.9 g/dL
   235 K/uL
   169 mg/dL
   0.4 mg/dL
   37 mEq/L
   3.5 mEq/L
   7 mg/dL
   105 mEq/L
   147 mEq/L
   24.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2103-3-10**]  04:29 AM
                             [**2103-3-10**]  11:49 AM
                             [**2103-3-10**]  12:49 PM
                             [**2103-3-10**]  03:04 PM
                             [**2103-3-10**]  08:42 PM
                             [**2103-3-11**]  02:47 AM
                             [**2103-3-11**]  03:06 AM
                             [**2103-3-11**]  07:22 PM
                             [**2103-3-11**]  09:05 PM
                             [**2103-3-12**]  03:45 AM
   WBC
   3.8
   4.3
   6.1
   Hct
   24.1
   24.5
   23
   24.9
   Plt
   161
   181
   235
   Cr
   0.4
   0.3
   0.4
   0.4
   TCO2
   37
   34
   34
   37
   38
   37
   Glucose
   144
   122
   152
   169
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, LDH:203
   IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Micro: Stool/urine/blood no growth to date
   Assessment and Plan
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with
   subarachnoid/intraparenchymal hemorrhage [**Date range (1) 5700**] and readmitted to
   MICU with acute change in mental status  [**Date range (1) 5858**] being readmitted
   with acute hypercarbic respiratory failure secondary to tracheal tear,
   S/P trach.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC
   -Acute on chronic hypercarbic respiratory failure - likely OSA, ?OHS,
   ?element central
   -wean vent as tolerated failed SBP yesterday
   -Will also check US sniff test to assess right diaphragm paralysis
Tracheal tear
   -presumably occurred during intubation at start of prior admission
   -IP following
   -trach in place to bypass injured area will need 6-8 weeks to heal
   -empiric abx coverage inc anti-fungal coverage 10 days of coverage
 hypoxemia
   -Unclear etiology, atelectasis/failure.  PE lower on differential as
   responded to being placed back on vent.
   -Will diuresis
   -Will f/u 02 requirement if no improvement will consider CTPA
   -Will Check LE US
   -Check BNP
   -Will repeat ABG
 HYPERTENSION
     -BP better controlled today
     -Will continue enalapril
     -Continue Beta blocker
     -PRN hydralazine
    -Will start lasix with goal negative fluid balance 500cc-1L negative
   Will also help with BP.
 DIABETES MELLITUS (DM), TYPE II:
   -SSRI
Fever-Pan culture-Resolved
   -new
   -is post trach placement which could be explanation
   -already on fluc and unasyn for trach/upper trachea tear proph
Mental status
   -very alert & interactive this morning intermittently confused
   -Consider Haldol will follow closely.
   -review medications consider hold fentanyl
   -wean sedation as tolerated
   -Did have Head CT for MS changes on Tuesday of last week.
    Remainder of plan per resident note
   ICU Care
   Nutrition: Tube feeds
   Replete with Fiber (Full) - [**2103-3-12**] 01:50 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT: SQ hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Screen vent unit.
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr.
   [**Last Name (STitle) 5967**]
s note above, including the assessment and plan. I would
   emphasize and add the following points:
   62 yr old female with PMH of afib, TIA, memory loss s/p hypoglycemic
   coma, chronic low back pain, anemia, GERD, asthma recently admitted
   with subarachnoid/intraparenchymal hemorrhage [**Date range (1) 5700**] and readmitted
   to MICU with acute change in mental status [**Date range (1) 5858**]. She is now MICU
   day 9 for acute hypercarbic respiratory failure due to tracheal tear
   requiring tracheostomy.
   Yesterday was put on PSV and tolerated it for three hours before
   desaturating to mid 80s requiring to be put back on ventilator. This AM
   had agitation treated with haldol. Currently alert, talkative, Tm
   100.4, stable vitals, A/C 350 x 16, peep 10, 80% with sats of 99%.
   Lungs clear ant/lat. 2+ LE edema bilat, R>L. FiO2 being weaned down.
   Etiology of acute hypoxia is unclear but likely related to
   atelectasis/derecruitment. Also possibilities are change in positioning
   of trach with failure to ventilate transiently, acute CHF, or mucus
   plugging. Doubt acute PE but reasonable to look for LE DVT given her
   immobility
 recent CTA without PE. The right hemidiaphragm is elevated
   since admission (there are no old films) and needs to be evaluated for
   diaphragm paresis.
   Otherwise, had afib with RVR requiring lopressor. Now back in NSR.
   Patient is being screened for LTAC. Will remain in MICU. Full Code.
   Patient is critically ill. Time 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2103-3-12**] 03:37 PM ------

2103-03-13 07:22:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 ULTRASOUND - At [**2103-3-12**] 11:29 AM
   LENI to r/o dvt
 ULTRASOUND - At [**2103-3-12**] 03:19 PM
   chest usg to assess the diaphragm
   [**3-12**]
   - has paralyzed right hemidiaphragm per dynamic U/S, per pt has been
   present for 10 years
   - LENIs without DVTs
   - no further hypoxic episodes and Fi02 decreased to 40%
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-11**] 08:27 PM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-12**] 09:52 AM
   Ampicillin - [**2103-3-13**] 04:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-3-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-12**] 08:00 AM
   Furosemide (Lasix) - [**2103-3-12**] 09:00 PM
   Hydralazine - [**2103-3-13**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-13**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 68 (55 - 79) bpm
   BP: 164/53(81) {101/35(50) - 175/74(87)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  3,612 mL
                                                                    672 mL
   PO:
             TF:
                                                                  1,652 mL
                                                                    501 mL
   IVF:
                                                                  1,200 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                  1,040 mL
   Urine:
                                                                  2,675 mL
                                                                    790 mL
   NG:
   Stool:
   250 mL
   Drains:
   Balance:
                                                                    937 mL
                                                                   -368 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 633 (633 - 633) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/65/126/32/14
   Ve: 7.3 L/min
   PaO2 / FiO2: 315
   Physical Examination
   GEN: pleasant, awake, slightly confused but conversational
   HEENT: PERRL, EOM intact, MMM
   Neck: JVP at earlobe
   PULM: clear ant and laterally
   Heart: RRR, no murmurs
   ABD: soft, obese, normal BS
   EXT: 3+ pitting edema
   Labs / Radiology
   194 K/uL
   6.3 g/dL
   152 mg/dL
   0.4 mg/dL
   32 mEq/L
   3.3 mEq/L
   7 mg/dL
   109 mEq/L
   150 mEq/L
   20.0 %
   3.4 K/uL
        [image002.jpg]
                             [**2103-3-10**]  03:04 PM
                             [**2103-3-10**]  08:42 PM
                             [**2103-3-11**]  02:47 AM
                             [**2103-3-11**]  03:06 AM
                             [**2103-3-11**]  07:22 PM
                             [**2103-3-11**]  09:05 PM
                             [**2103-3-12**]  03:45 AM
                             [**2103-3-12**]  01:04 PM
                             [**2103-3-12**]  06:05 PM
                             [**2103-3-13**]  04:49 AM
   WBC
   3.8
   4.3
   6.1
   3.4
   Hct
   24.1
   24.5
   23
   24.9
   20.0
   Plt
   161
   181
   235
   194
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   TCO2
   37
   38
   37
   44
   Glucose
   144
   122
   152
   169
   172
   152
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, LDH:203
   IU/L, Ca++:6.8 mg/dL, Mg++:1.7 mg/dL, PO4:1.3 mg/dL
   Fluid analysis / Other labs: BNP 1800
   Imaging: LENI: no DVT
   Diaphragm Fluoro: paralyzed R hemi diaphragm
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 ANEMIA, OTHER
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with subarachnoid
   hemorrhage [**Date range (1) 5700**] readmitted with acute change in mental status [**12-18**]
   acute on chronic hypercarbic respiratory failure; found to have
   traumatic tracheal tear now s/p trach.
   # Respiratory failure: .  Patient remains on vent and has failed SBT.
   Currently appears to be component of hypercarbic resp failure likely
   from cental apnea as well as mild pulm edema. Furthermore, she has
   mechanical deficits with chronic R hemidiaphragm.  In addition, pt has
   had hypoxia as well. Hypoxia may be [**12-18**] atelecatsis or vol overload; PE
   in differential but hypoxia does improve with PEEP which would not be
   consistent with PE. LENI on [**3-12**] neg for DVT.  Her resp issues are
   likely a combination of OSA, CO2 retention andf her hospital course has
   also been complicated by right lung collapse, R mainstem intubation.
   - try another pressure support trial today
   - goal I/O 1L neg today with lasix drip
   - continue flovent, albuterol, atrovent
   - LENI
s neg for DVT
   # Hct drop: Hct from 24 to 20 this morning; however, all other cell
   lines are slightly down as well. She has been hemodynamically stable
   and no reports of bleeding. I suspect dilutional
   - repeat CBC
   - if persistant, guaiac all stools, transfuse for HCT<21
   # Tracheal tear - Found on CTA chest done [**3-6**], flexible brochoscopy
   showed webbing, rigid bronch showed traumatic tear; now s/p fiberoptic
   intubation. Will be trach
ed today with plan for 8 weeks with
   tracheostomy to allow tracheal tear to heal. Now s/p tracheostomy.
   - continue to try PS trials, although continues to become hypercarbic
   likely [**12-18**] central apnea
   - if does well try Passey-Muir valve
   - continue Unasyn ([**3-8**]) and Fluconazole ([**3-8**]) for ppx for tracheal
   tear for goal 10 day course
   #Paroxysmal Atrial fibrillation: HR currently in 60
s, but had an
   episode of afib with RVR last night.
   - BB restarted
   - coumadin being held given recent hemorrhage
   - not on asa [**12-18**] left temporal hemorrhage
   # HTN
  BP variable , had been hypertensive two days ago requiring
   nitro drip at which point she was transitioned back to her home dose of
   enalapril.  However, she then had low BP and high pulse pressure
   yesterday early morning in the setting of propofol, but then normalized
   throughout the day with BP
s 130
s-160
s/40-60
   -  continue enalapril, and hydralazine
   # Altered mental status
 Has been improved, but still frequently
   confused. h/o SAH/IPH, but now unclear etiology as no clear
   complaints.  Likely [**12-18**] hemorrage, prior hypoglycemic coma from which
   she did not recover and ICU delirium. Head CT unchanged, Chest CTA w/o
   PE, no evidence of MI, TTE w/ nl EF, UA unremarkable.
   - [**Month (only) 453**] haldol
   - if more confused will decrease fentanyl
   # Hypernatremia:  sodium cont to be elevated
   - continue free water flushes 250 cc Q4H
   # Fevers: no further fevers, cultures have been negative, c.diff neg on
   unasyn and fluconazole ppx for  traceal tear
   # Concern for aspiration
 post extubation she had couging and
   desaturation with one sip of water very concerning for aspiration which
   would be [**Last Name **] problem for her.
   - on Unasyn as for tracheal tear
    #Type II DM
   -glargine/hiss
   -holding oral agents while npo
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix for one month at least, f/u with
   neurosurgery
   - per neurology -> cont keppra for now
   - outpatient neurology follow up
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2103-3-13**] 04:47 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-03-13 09:25:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, tracheal tear
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   24 Hour Events:
   Negative US for  DVT
   Back to baseline fi02
   Hx of chronic right hemi diaphragm paralysisper patient unable to
   locate [**Hospital1 12**] records
   started on lasix drip
 ULTRASOUND - At [**2103-3-12**] 11:29 AM
   LENI to r/o dvt
 ULTRASOUND - At [**2103-3-12**] 03:19 PM
   chest usg to assess the diaphragm
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   # 6 Fluconazole - [**2103-3-11**] 08:27 PM
   #  6 Ampicillin/Sulbactam (Unasyn) - [**2103-3-12**] 09:52 AM
   Ampicillin - [**2103-3-13**] 04:10 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2103-3-12**] 09:00 PM
   Hydralazine - [**2103-3-13**] 06:30 AM
   Lansoprazole (Prevacid) - [**2103-3-13**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-13**] 08:23 AM
   Other medications:
   Levetiracetam 500 po bid
   Metoprolol 25 po bid
   Vit K x 3 doses
   Enalapril 30mg po qday
   Hydralazine 25mg po qid
   Senna
   Docusate
   Insulin
   Lantoprost
   Brimonidine
   Simvistatin
   Hep SQ tid
   Changes to medical and family history:
   Hx of paralyzed right HD.
   Review of systems is unchanged from admission except as noted below
   Review of systems:see resident note no acute issues.
   Flowsheet Data as of  [**2103-3-13**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 76 (55 - 79) bpm
   BP: 186/52(84) {115/42(61) - 186/74(87)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  3,612 mL
                                                                    976 mL
   PO:
             TF:
                                                                  1,652 mL
                                                                    662 mL
   IVF:
                                                                  1,200 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                  1,200 mL
   Urine:
                                                                  2,675 mL
                                                                    950 mL
   NG:
   Stool:
   250 mL
   Drains:
   Balance:
                                                                    937 mL
                                                                   -224 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 633 (633 - 633) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/65/126/37/14
   Ve: 7.2 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trach
   Neck: JVP earlobe
   Cardiovascular: RRR s1s2 no m/r/g
   Respiratory / Chest: Course BS ant/post no bronchial BS noted
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  no rash or erythema
   Ext: + edema
   Neurologic: Attentive, A+O x 3 no gross motor sensory deficits.
   Lines: Clean dry intact.
   Skin:  Not assessed
   Labs / Radiology: trach in place and NG in place Low lung volumes small
   effusions and plum vasculature
   8.0 g/dL
   255 K/uL
   168 mg/dL
   0.4 mg/dL
   37 mEq/L
   3.7 mEq/L
   8 mg/dL
   102 mEq/L
   144 mEq/L
   25.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2103-3-10**]  08:42 PM
                             [**2103-3-11**]  02:47 AM
                             [**2103-3-11**]  03:06 AM
                             [**2103-3-11**]  07:22 PM
                             [**2103-3-11**]  09:05 PM
                             [**2103-3-12**]  03:45 AM
                             [**2103-3-12**]  01:04 PM
                             [**2103-3-12**]  06:05 PM
                             [**2103-3-13**]  04:49 AM
                             [**2103-3-13**]  07:19 AM
   WBC
   4.3
   6.1
   3.4
   4.4
   Hct
   24.5
   23
   24.9
   20.0
   25.4
   Plt
   181
   235
   194
   255
   Cr
   0.3
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   37
   38
   37
   44
   Glucose
   122
   152
   169
   172
   152
   168
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.7
   g/dL, LDH:203 IU/L, Ca++:6.8 mg/dL, Mg++:1.7 mg/dL, PO4:1.3 mg/dL  BNP
   1874
   Micro-no new micro
   Assessment and Plan
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with
   subarachnoid/intraparenchymal hemorrhage [**Date range (1) 5700**] and readmitted to
   MICU with acute change in mental status  [**Date range (1) 5858**] readmitted with
   acute hypercarbic respiratory failure secondary.  Found to have a
   tracheal tear and paralyzed right HD.  She is status post trach this
   admission.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC Central and paralyzed right HD
   -Acute on chronic hypercarbic respiratory failure - likely OSA, ?OHS,
   ?element central
   -wean vent as tolerated change to PS today
Tracheal tear
   -presumably occurred during intubation at start of prior admission
   -IP following
   -trach in place to bypass injured area will need 6-8 weeks to heal
   -empiric abx coverage inc anti-fungal coverage 10 days of coverage
 hypoxemia
   -suspect atelectasis/failure given she is back to her baseline.
   -Will diuresis
 HYPERTENSION
     -Will increase enalapril to 30mg qday
     -Continue Beta blocker
    -hydralazine increase to 25mg qid
    -Will start lasix with goal negative fluid balance 500cc-1L negative.
   Will also help with BP.
 DIABETES MELLITUS (DM), TYPE II:
   -SSRI
Fever-Pan culture-Resolved
   -new
   -is post trach placement which could be explanation
   -already on fluc and unasyn for trach/upper trachea tear proph
Mental status
   -very alert & interactive this morning intermittently confused
   -Consider Haldol will follow closely.
   -review medications consider hold fentanyl although no change since she
   did not receive a dose
   -wean sedation as tolerated
    Remainder of plan per resident note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2103-3-13**] 04:47 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT:   Boots Hep SQ
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  Screen for pulm rehab.
   Total time spent:
   ------ Protected Section ------
   Attending Note: Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   Stable overnight. LENIs were negative. LOS 8 L positive and mild
   increase in pulmonary edema on today
s CXR.
   Started on Lasix drip. Currently 300 ml positive today.
   Plan is to retry PSV. She will likely be transferred to [**Hospital 6025**] rehab
   in AM.
   Time 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2103-3-13**] 16:05 ------

2103-03-14 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - increased hydral and enalapril for good BP control
   - failed another PS trial after 3-4hrs with ABG at end 7.48/55/78.
   After 4 hrs, she was noted to have desat to 80's with reduced tidal
   volumes despite increasing PEEP to 15. CXR -> unchanged and pt put back
   on AC
   - lasix gtt started
   - plan for d/c to [**First Name9 (NamePattern2) 6049**] [**Hospital1 2084**] at 10 AM
   - ? pt's left hilar mass needs f/u CT
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-11**] 08:27 PM
   Ampicillin - [**2103-3-13**] 04:10 AM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-14**] 04:17 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-3-13**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2103-3-14**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-14**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.5
   HR: 79 (60 - 80) bpm
   BP: 142/45(68) {108/39(56) - 186/76(87)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  3,504 mL
                                                                    873 mL
   PO:
             TF:
                                                                  1,684 mL
                                                                    533 mL
   IVF:
                                                                    860 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  2,045 mL
   Urine:
                                                                  3,450 mL
                                                                  2,045 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                   -196 mL
                                                                 -1,172 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 404 (355 - 404) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.48/54/78.[**Numeric Identifier 7**]/39/14
   Ve: 5.1 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   286 K/uL
   8.1 g/dL
   181 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.1 mEq/L
   9 mg/dL
   99 mEq/L
   142 mEq/L
   25.3 %
   5.4 K/uL
        [image002.jpg]
                             [**2103-3-11**]  09:05 PM
                             [**2103-3-12**]  03:45 AM
                             [**2103-3-12**]  01:04 PM
                             [**2103-3-12**]  06:05 PM
                             [**2103-3-13**]  04:49 AM
                             [**2103-3-13**]  07:19 AM
                             [**2103-3-13**]  02:44 PM
                             [**2103-3-13**]  05:07 PM
                             [**2103-3-14**]  12:01 AM
                             [**2103-3-14**]  05:38 AM
   WBC
   6.1
   3.4
   4.4
   5.4
   Hct
   23
   24.9
   20.0
   25.4
   25.3
   Plt
   235
   194
   255
   286
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.5
   TCO2
   37
   44
   41
   Glucose
   169
   172
   152
   168
   177
   170
   181
   Other labs: PT / PTT / INR:12.1/22.1/1.0, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.7
   g/dL, LDH:203 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Imaging: [**2103-3-13**] CXR:
   Interval improvement in aeration of the lung bases bilaterally, with
   mild
   residual bibasilar opacities, may reflect atelectasis. There is
   persistent
   elevation of the right hemidiaphragm. Vague opacity is seen in the
   right mid
   lung, may reflect atelectasis; though, developing consolidation can't
   be
   excluded. NG tube partially coiled in stomch, unchanged. -jkang.
   Microbiology: [**2103-3-9**] BCX: NGTD
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 ANEMIA, OTHER
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with subarachnoid
   hemorrhage [**Date range (1) 5700**] readmitted with acute change in mental status [**12-18**]
   acute on chronic hypercarbic respiratory failure; found to have
   traumatic tracheal tear now s/p trach.
   # Respiratory failure: .  Patient remains on vent and has failed SBT.
   Currently appears to be component of hypercarbic resp failure likely
   from cental apnea as well as mild pulm edema. Furthermore, she has
   mechanical deficits with chronic R hemidiaphragm.  In addition, pt has
   had hypoxia as well. Hypoxia may be [**12-18**] atelecatsis or vol overload; PE
   in differential but hypoxia does improve with PEEP which would not be
   consistent with PE. LENI on [**3-12**] neg for DVT.  Her resp issues are
   likely a combination of OSA, CO2 retention and her hospital course has
   also been complicated by right lung collapse, R mainstem intubation.
   - try another pressure support trial today
   - goal I/O 1-2L neg today with lasix drip
   - continue flovent, albuterol, atrovent
   - LENI
s neg for DVT
   # Hct drop: Hct from 24 to 20 this morning; however, all other cell
   lines are slightly down as well. She has been hemodynamically stable
   and no reports of bleeding. I suspect dilutional
   - repeat CBC
   - if persistant, guaiac all stools, transfuse for HCT<21
   # Tracheal tear - Found on CTA chest done [**3-6**], flexible brochoscopy
   showed webbing, rigid bronch showed traumatic tear; now s/p fiberoptic
   intubation. Will be trach
ed today with plan for 8 weeks with
   tracheostomy to allow tracheal tear to heal. Now s/p tracheostomy.
   - continue to try PS trials, although continues to become hypercarbic
   likely [**12-18**] central apnea
   - if does well try Passey-Muir valve
   - continue Unasyn ([**3-8**]) and Fluconazole ([**3-8**]) for ppx for tracheal
   tear for goal 10 day course
   #Paroxysmal Atrial fibrillation: HR currently in 60
s, but had an
   episode of afib with RVR last night.
   - BB restarted
   - coumadin being held given recent hemorrhage
   - not on asa [**12-18**] left temporal hemorrhage
   # HTN
  BP variable , had been hypertensive two days ago requiring
   nitro drip at which point she was transitioned back to her home dose of
   enalapril.  However, she then had low BP and high pulse pressure
   yesterday early morning in the setting of propofol, but then normalized
   throughout the day with BP
s 130
s-160
s/40-60
   -  increase enalapril and hydralazine
   # Altered mental status
 Has been improved, but still frequently
   confused. h/o SAH/IPH, but now unclear etiology as no clear
   complaints.  Likely [**12-18**] hemorrage, prior hypoglycemic coma from which
   she did not recover and ICU delirium. Head CT unchanged, Chest CTA w/o
   PE, no evidence of MI, TTE w/ nl EF, UA unremarkable.
   - [**Month (only) 453**] haldol
   - if more confused will decrease fentanyl
   # Hypernatremia:  sodium cont to be elevated
   - continue free water flushes 250 cc Q4H
   # Fevers: no further fevers, cultures have been negative, c.diff neg on
   unasyn and fluconazole ppx for  traceal tear
   # Concern for aspiration
 post extubation she had couging and
   desaturation with one sip of water very concerning for aspiration which
   would be [**Last Name **] problem for her.
   - on Unasyn as for tracheal tear
    #Type II DM
   -glargine/hiss
   -holding oral agents while npo
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix for one month at least, f/u with
   neurosurgery
   - per neurology -> cont keppra for now
   - outpatient neurology follow up
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2103-3-13**] 05:56 PM 70 mL/hour
   Glycemic Control:  Insulin
   Lines:
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT: SQH, boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: D/C to rehab today

2103-03-14 08:14:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, tracheal tear
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   24 Hour Events:  increased hydralazine and enalapril yesterday
   PS 15/10  trial 7.48/55/78  desated to 80
s after 4 hours  intial TV
   were in 350-400 and she dropped her volumes to less that 300.
   Lasix drip started and negative this morning.
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2103-3-11**] 08:27 PM
   Ampicillin - [**2103-3-13**] 04:10 AM
   Ampicillin/Sulbactam (Unasyn) - [**2103-3-14**] 04:17 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-3-14**] 07:50 AM
   Lansoprazole (Prevacid) - [**2103-3-14**] 07:50 AM
   Other medications:
   Levetiracetam 500 po bid
   Metoprolol 25 po bid
   Pyridium finished
   Enalapril 30mg po qday
   Hydralazine 25mg po qid
   Senna
   Docusate
   Insulin
   Lantoprost
   Brimonidine
   Simvistatin
   Hep SQ tid
   Changes to medical and family history:
   No changes see H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems:No complaints
   Flowsheet Data as of  [**2103-3-14**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 76 (60 - 80) bpm
   BP: 157/47(74) {108/39(56) - 170/76(87)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 134.1 kg
   Height: 65 Inch
             Total In:
                                                                  3,504 mL
                                                                    986 mL
   PO:
             TF:
                                                                  1,684 mL
                                                                    575 mL
   IVF:
                                                                    860 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  2,045 mL
   Urine:
                                                                  3,450 mL
                                                                  2,045 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                   -196 mL
                                                                 -1,059 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 404 (355 - 404) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.48/54/78.[**Numeric Identifier 7**]/39/14
   Ve: 7.7 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trach
   Neck: JVP earlobe
   Cardiovascular: RRR s1s2 no m/r/g
   Respiratory / Chest: Course BS ant/post no bronchial BS noted
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  no rash or erythema
   Ext: + edema
   Neurologic: Attentive, A+O x 3 no gross motor sensory deficits.
   Lines: Clean dry intact.
   Skin:  Not assessed
   Labs / Radiology:  Chest decreased effusions.
   8.1 g/dL
   286 K/uL
   181 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.1 mEq/L
   9 mg/dL
   99 mEq/L
   142 mEq/L
   25.3 %
   5.4 K/uL
        [image002.jpg]
                             [**2103-3-11**]  09:05 PM
                             [**2103-3-12**]  03:45 AM
                             [**2103-3-12**]  01:04 PM
                             [**2103-3-12**]  06:05 PM
                             [**2103-3-13**]  04:49 AM
                             [**2103-3-13**]  07:19 AM
                             [**2103-3-13**]  02:44 PM
                             [**2103-3-13**]  05:07 PM
                             [**2103-3-14**]  12:01 AM
                             [**2103-3-14**]  05:38 AM
   WBC
   6.1
   3.4
   4.4
   5.4
   Hct
   23
   24.9
   20.0
   25.4
   25.3
   Plt
   235
   194
   255
   286
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.5
   TCO2
   37
   44
   41
   Glucose
   169
   172
   152
   168
   177
   170
   181
   Other labs: PT / PTT / INR:12.1/22.1/1.0, CK / CKMB /
   Troponin-T:16//<0.01, Differential-Neuts:78.9 %, Lymph:13.9 %, Mono:5.8
   %, Eos:1.4 %, Fibrinogen:479 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.7
   g/dL, LDH:203 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with
   subarachnoid/intraparenchymal hemorrhage [**Date range (1) 5700**] and readmitted to
   MICU with acute change in mental status  [**Date range (1) 5858**] readmitted with
   acute hypercarbic respiratory failure secondary.  Found to have a
   tracheal tear and paralyzed right HD.  She is status post trach this
   admission.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC Central and paralyzed right HD
   -Acute on chronic hypercarbic respiratory failure - likely OSA, ?OHS,
   ?element central
   -wean vent as tolerated failing SBT would try to optimize her volume
   status and trial of PS sitting up.
   -Continue diuresis until BUN/Cr bump
   -Would consider giving diamox to help with contraction and to spill
   retained bicarb to help her breath.
Tracheal tear
   -presumably occurred during intubation at start of prior admission
   -IP following
   -trach in place to bypass injured area will need 6-8 weeks to heal
   -empiric abx coverage inc anti-fungal coverage 10 days of coverage
 hypoxemia
   -suspect atelectasis/failure/hypoventilation given she is back to her
   baseline.
   -Will diuresis
 ? Hilar fullness on CT-Repeat CT when stable withing next months.
   -Placed in discharge summary
 HYPERTENSION
     -cont  enalapril to 30mg qday
     -Continue Beta blocker
    -Cont hydralazine to 25mg qid
    -Will start lasix with goal negative fluid balance 500cc-1L negative.
   Will also help with BP.
 DIABETES MELLITUS (DM), TYPE II:
   -SSRI
Fever-Pan culture-Resolved
   -new
   -is post trach placement which could be explanation
   -already on fluc and unasyn for trach/upper trachea tear proph
Mental status
   -very alert & interactive this morning intermittently confused
   -Consider Haldol will follow closely.
   -review medications consider hold fentanyl although no change since she
   did not receive a dose
   -wean sedation as tolerated
    Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2103-3-7**] 02:00 PM
   Prophylaxis:
   DVT:  SQ hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Transfer to [**Hospital 6049**] [**Hospital 2084**] rehab center.
   Total time spent: